US08865732B2
A solution of LiHMDS (1.0 M in THF, 11 mL, 11 mmol) was added dropwise to a cooled solution of 4-tetrahydropyranone (1 g, 10 mmol) in dry THF (5 mL) at −78° C. and the resulting reaction was maintained at −78° C. for 1 h. A solution of 2-[N,N-bis(trifluoromethanesulfonyl)amino]-5-chloropyridine (3.93 g, 10 mmol) in dry THF (6 mL) was added dropwise and the reaction maintained overnight, allowing the cooling bath to expire. The reaction was quenched with water (10 mL) and partitioned with DCM. The layers were separated and the aqueous portion was extracted with DCM (2×). The combined organic portions were dried (Na2SO4) and evaporated. The crude residue was purified by flash chromatography (neutral alumina, 80:20 DCM-hexanes) to provide 800 mg of 3,6-dihydro-2H-pyran-4-yl trifluoromethanesulfonate as a colorless oil: 1H NMR (400 MHz, CDCl3) δ 5.82-5.81 (m, 1H), 4.27-4.25 (m, 2H), 3.91-3.88 (m, 2H), 2.48-2.45 (m, 2H).

reactant | LiHMDS | 11 mmol, 1.0 M, 11 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 4-tetrahydropyranone | 10 mmol, 1 g | O1CCC(CC1)=O | C5H8O2
reactant | 2-[N,N-bis(trifluoromethanesulfonyl)amino]-5-chloropyridine | 10 mmol, 3.93 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=NC=C(C=C1)Cl)(F)F | C7H3ClF6N2O4S2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 3,6-dihydro-2H-pyran-4-yl trifluoromethanesulfonate | 800 mg | FC(S(=O)(=O)OC=1CCOCC1)(F)F | C6H7F3O4S
